US08633173B2
1-(3-Bromo-pyridin-2-yl)-3-(2-methoxy-phenyl)-thiourea was prepared from 3-bromo-pyridin-2-ylamine (5.0 g, 29.0 mmol) and 1-isothiocyanato-2-methoxy-benzene (4.0 mL, 29.0 mmol) in a manner analogous to Step 19a. The reaction product was isolated as a yellow solid (8.46 g, 86%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 13.62 (br s, 1H), 8.75-8.65 (m, 2H), 8.21 (dd, J=5.1, 1.5 Hz, 1H), 7.91 (dd, J=8.0, 1.6, Hz, 1H), 7.21 (dt, J=7.9, 1.5 Hz, 1H), 7.06-7.00 (m, 1H), 6.98-6.94 (m, 1H), 6.91 (dd, J=7.9, 5.0 Hz, 1H), 3.93 (s, 3H). MS=340 (MH)+.

reactant | 3-bromo-pyridin-2-ylamine | 29.0 mmol, 5.0 g | BrC=1C(=NC=CC1)N | C5H5BrN2
reactant | 1-isothiocyanato-2-methoxy-benzene | 29.0 mmol, 4.0 mL | N(=C=S)C1=C(C=CC=C1)OC | C8H7NOS
product | 1-(3-Bromo-pyridin-2-yl)-3-(2-methoxy-phenyl)-thiourea | BrC=1C(=NC=CC1)NC(=S)NC1=C(C=CC=C1)OC | C13H12BrN3OS
